US08053438B2
To a −78° C. solution of diisopropylamine (3.60 mL, 25.5 mmol) in THF (30 mL) was added butyllithium (9.35 mL, 23.38 mmol) dropwise. After the addition was complete the reaction was allowed to stir at −78° C. for 15 minutes, then a solution of 1-acetylpiperidin-3-one (3.0 g, 21.25 mmol) in THF (5 mL) was added dropwise. After a further 20 minutes, a solution of 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (8.35 g, 23.38 mmol) in THF (15 mL) was added dropwise to the reaction. The solution was allowed to slowly warm to room temperature. After 16 hours, the reaction was quenched with sat'd NH4Cl and the diluted with water (20 mL). The aqueous solution was basified and extracted with Teac (4×30 mL). The combined organics were washed with brine and concentrated in vacuo. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (40 g), eluting with 0% to 70% Teac in hexane, to provide 1-acetyl-1,4,5,6-tetrahydropyridin-3-yl trifluoromethanesulfonate as a golden oil. [M+1]=274.0.

reactant | diisopropylamine | 25.5 mmol, 3.60 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 23.38 mmol, 9.35 mL | C(CCC)[Li]
reactant | 1-acetylpiperidin-3-one | 21.25 mmol, 3.0 g | C(C)(=O)N1CC(CCC1)=O | C7H11NO2
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 23.38 mmol, 8.35 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-acetyl-1,4,5,6-tetrahydropyridin-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CN(CCC1)C(C)=O)(F)F | C8H10F3NO4S
